US07355049B2
5-(4′-Bromo-biphenyl-4-yloxymethyl)-furan-2-carboxylic acid was prepared using general procedure A from 4-bromo-4′-hydroxybiphenyl (available from TCI America, Portland, Oreg.) and 5-chloromethylfuran-2-carboxylic acid methyl ester (available from Aldrich, Milwaukee, Wis., or from Maybridge plc, Tintagel, UK). Yield: 86 mg. Mass spectrum (ES) MH+=373.

reactant | 4-bromo-4′-hydroxybiphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | 5-chloromethylfuran-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)CCl | C7H7ClO3
product | 5-(4′-Bromo-biphenyl-4-yloxymethyl)-furan-2-carboxylic acid | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=C(O1)C(=O)O | C18H13BrO4
